US04288437
(E)-2-[(Amino)-(4-fluorophenyl)methylene]-benzo[b]thiophen-3(2H)-one
Prepared as in Example 1 from 2-(4-fluorobenzoyl)-benzo[b]thiophen-3-ol, phosphorus(V) chloride and concentrated ammonia with a yield of 63% of theory. Yellow, felt-like crystals; M.p. 158° C. (methanol).

reactant | 2-(4-fluorobenzoyl)-benzo[b]thiophen-3-ol | FC1=CC=C(C(=O)C2=C(C3=C(S2)C=CC=C3)O)C=C1 | C15H9FO2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | (E)-2-[(Amino)-(4-fluorophenyl)methylene]-benzo[b]thiophen-3(2H)-one | yield of 63% | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=C(C=C2)F | C15H10FNOS
